US07745475B2
3-{[4-(Azetidin-1-ylcarbonyl)-2-chlorophenyl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide
To a mixture of 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide (215 mg, 0.53 mmol) and 1-(3-chloro-4-fluorobenzoyl)azetidine (135 mg, 0.63 mmol) in DMF (2.0 mL) was added potassium carbonate (146 mg, 1.06 mmol) and the stirred mixture heated at 160° C. in a ‘Smith Creator Microwave’ for 120 minutes. The mixture was allowed to reach ambient temperature and pressure then reduced in volume. Purification by column chromatography, eluting with 0-20% methanol in DCM, afforded the title compound (130 mg).

reactant | 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.53 mmol, 215 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)C | C20H31N3O4Si
reactant | 1-(3-chloro-4-fluorobenzoyl)azetidine | 0.63 mmol, 135 mg | ClC=1C=C(C(=O)N2CCC2)C=CC1F | C10H9ClFNO
reactant | potassium carbonate | 1.06 mmol, 146 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-{[4-(Azetidin-1-ylcarbonyl)-2-chlorophenyl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 130 mg | N1(CCC1)C(=O)C1=CC(=C(C=C1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CO)C)Cl | C24H25ClN4O5
